US06969710B2
N-{5-(1,4-diazepan-1-yl)-2-[(ethylsulfonyl)amino]phenyl}benzenesulfonamide hydrochloride was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide (0.085 g, 0.19 mmol) and ethanesulfonyl chloride (0.032 μL, 0.25 mmol) to give 29.1 mg of a light purple solid; Anal. (C24H27ClN4O3S×0.75H2O) C, H, N, S.; M+ 439.4 Calcd 439.14.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | 0.19 mmol, 0.085 g | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | ethanesulfonyl chloride | 0.25 mmol, 0.032 μL | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-{5-(1,4-diazepan-1-yl)-2-[(ethylsulfonyl)amino]phenyl}benzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)NS(=O)(=O)CC | InChI=1S/C19H26N4O4S2.ClH/c1-2-28(24,25)21-18-10-9-16(23-13-6-11-20-12-14-23)15-19(18)22-29(26,27)17-7-4-3-5-8-17;/h3-5,7-10,15,20-22H,2,6,11-14H2,1H3;1H
